US05489593
1-[3-(2,2,2-Trifluoroacetamido)-2-pyridinyl]piperazine
1-[Benzyloxycarbonyl]-4-[3-(2,2,2-trifluoroacetamido)-2-pyridinyl]piperazine (PREPARATION 101), is dissolved in 70 ml of ethanol and 0.25 g of 10% palladium on carbon is added. The reaction is hydrogenated at 40 psi for 20 hr. Then it is filtered through a pad of celite and concentrated in vacuo to afford the title compound which is used without further purification, NMR (300 MHz, CDCl3) 8.51, 8.21, 7.19, and 3.45-3.47 δ.

reactant | 1-[Benzyloxycarbonyl]-4-[3-(2,2,2-trifluoroacetamido)-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(C(F)(F)F)=O | C19H19F3N4O3
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 1-[3-(2,2,2-Trifluoroacetamido)-2-pyridinyl]piperazine | FC(C(=O)NC=1C(=NC=CC1)N1CCNCC1)(F)F | C11H13F3N4O
